US04000151
A stirred mixture of 2,6-dichloro-4-phenylquinoline (2.7 g., 0.01 mole) and hydrazine hydrate (6.8 g.) is refluxed under nitrogen for 1 hour and concentrated in vacuo. The residue is suspended in warm water, and the solid is collected by filtration, dried and recrystallized from ethyl acetate-Skellysolve B hexanes to give 1.81 g. (67% yield) of 6-chloro-2-hydrazino-4-phenylquinoline of melting point 156.5°- 157° C.

reactant | 2,6-dichloro-4-phenylquinoline | 0.01 mole, 2.7 g | ClC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)Cl | C15H9Cl2N
reactant | hydrazine hydrate | 6.8 g | O.NN
product | 6-chloro-2-hydrazino-4-phenylquinoline | 67% yield | ClC=1C=C2C(=CC(=NC2=CC1)NN)C1=CC=CC=C1 | C15H12ClN3
